US07704989B2
1.67 ml of triethylamine, 1.53 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 1.08 g of 1-hydroxybenzotriazole are added to a solution of 0.176 g of 8-methylimidazo[1,2-a]pyridine-2-carboxylic acid in 12 ml of dichloromethane. The reaction mixture is stirred at ambient temperature for 20 minutes. 0.090 ml of aniline is added. The reaction mixture is stirred at ambient temperature for 4 hours. 60 ml of dichloromethane and 30 ml of water are added. After separation by settling, the organic phase is dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure. After purifying by flash chromatography (silica, eluent dichloromethane/ethyl acetate 98/02 by volume), 0.193 g of 8-methyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide is obtained in the form of a white solid.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.53 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.08 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 8-methylimidazo[1,2-a]pyridine-2-carboxylic acid | 0.176 g | CC=1C=2N(C=CC1)C=C(N2)C(=O)O | C9H8N2O2
reactant | aniline | 0.090 ml | NC1=CC=CC=C1 | C6H7N
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | triethylamine | 1.67 ml | C(C)N(CC)CC | C6H15N
product | 8-methyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 0.193 g | CC=1C=2N(C=CC1)C=C(N2)C(=O)NC2=CC=CC=C2 | C15H13N3O
